US06987116B2
To a solution of 7-chlorothieno[3,2-b]pyridine-6-carbonitrile (100 mg, 0.45 mmol) in 5 mL of dichloromethane is added, in portions, (tert-butoxycarbonylmethylene)triphenylphosphorane (0.645 mL, 1.29 mmol). After stirring for 2.5 hours, the reaction mixture is allowed to stand at room temperature overnight. The mixture is concentrated to ½ its volume and is purified by flash column chromatography eluting with dichloromethane to provide 126 mg of tert-butyl (2E)-3-(7-chloro-6-cyanothieno[3,2-b]pyridin-2-yl)prop-2-enoate as a white solid, mp 193-194° C.; 1H NMR (CDCl3) δ 1.55 (s, 9H), 6.46 (d, J=16 Hz, 1H), 7.26 (s, 1H), 7.70 (s, 1H), 7.77 (d, J=16 Hz, 1H), 8.84 (s, 1H); MS 321.1, 323.2 (M+H)+.

reactant | 7-chlorothieno[3,2-b]pyridine-6-carbonitrile | 0.45 mmol, 100 mg | ClC1=C2C(=NC=C1C#N)C=CS2 | C8H3ClN2S
reactant | (tert-butoxycarbonylmethylene)triphenylphosphorane | 1.29 mmol, 0.645 mL | C(C)(C)(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-butyl (2E)-3-(7-chloro-6-cyanothieno[3,2-b]pyridin-2-yl)prop-2-enoate | 126 mg | ClC1=C2C(=NC=C1C#N)C=C(S2)/C=C/C(=O)OC(C)(C)C | C15H13ClN2O2S
